US06248738B1
7-chlorosulphonyl-1,4-dichloroisoquinoline (110 mg, 0.37 mmol) was dissolved in a solution of saturated methanolic ammonia (NH3) (10 mL) and the solution stirred at room temperature for 1.5 hours. The solvents were evaporated in vacuo and the residue was azeotroped with CH2Cl2 and then partitioned between EtOAc and water. The organic phase was washed with brine, dried (MgSO4) and evaporated in vacuo to give 1,4-dichloro-7-sulphamoylisoquinoline (98 mg, 0.35 mmol) as a white solid.

reactant | 7-chlorosulphonyl-1,4-dichloroisoquinoline | 0.37 mmol, 110 mg | ClS(=O)(=O)C1=CC=C2C(=CN=C(C2=C1)Cl)Cl | C9H4Cl3NO2S
reactant | ammonia | 10 mL | N | H3N
product | 1,4-dichloro-7-sulphamoylisoquinoline | 0.35 mmol, 98 mg | ClC1=NC=C(C2=CC=C(C=C12)S(N)(=O)=O)Cl | C9H6Cl2N2O2S
